US06472372B1
3-(6-Bromo-3-pyridinyl)-2-propenal
2-Propylmagnesium chloride (2.0 M in THF, 5.00 mL 10.00 mmol) was added to a solution of 2,5-dibromopyridine (2.37 g, 10.00 mmol) in THF (5.0 mL) at RT. The resulting brown suspension was stirred for 1 h and then cooled to 0° C. 3-Dimethylaminoacrolein (95%, 1.30 mL, 12.36 mmol) was added and the mixture was warmed to RT and stirred for 2 h. 2 N HCl was added and after 5 min the mixture was cooled to 0° C. The precipitated solids were removed by filtration and partitioned between ethyl acetate (75 mL) and 10% NaOH (25 mL). The ethyl acetate layer was washed with brine (25 mL), dried (MgSO4), and concentrated. Recrystallization from ethyl acetate provided 550 mg (26%) of the title compound as shiny brown flakes. MS 211 (M+H)+.

reactant | 2-Propylmagnesium chloride | 10.00 mmol, 2.0 M, 5.00 mL | CC(C)[Mg]Cl
reactant | 2,5-dibromopyridine | 10.00 mmol, 2.37 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 3-Dimethylaminoacrolein | 12.36 mmol, 1.30 mL | CN(C=CC=O)C | C5H9NO
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 3-(6-Bromo-3-pyridinyl)-2-propenal | 550 mg, 26% | BrC1=CC=C(C=N1)C=CC=O | C8H6BrNO
